US04588749
2-(4-Methylphenyl)propionamide (4 g) in dry tetrahydrofuran was added dropwise under nitrogen to lithium alumimium hydride (0.93 g) in dry tetrahydrofuran. The mixture was refluxed for 1 h at the end of addition. Water (1 ml), 2N. NaOH (1 ml), further water (3 ml) were added, the mixture filtered and the filtrate evaporated to give 3-(4-methylphenyl)propanamine (3.5 g).

reactant | 2-(4-Methylphenyl)propionamide | 4 g | CC1=CC=C(C=C1)C(C(=O)N)C | C10H13NO
reactant | lithium | 0.93 g | [Li] | Li
reactant | Water | 1 ml | O | H2O
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-methylphenyl)propanamine | 3.5 g | CC1=CC=C(C=C1)CCCN | C10H15N
